US07335658B2
{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID ISOBUTYL ESTER
Following the procedure of Example 7, making variations only as required to use 2-methylpropyl chloroformate in place of n-butyl chloroformate to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (47% yield). 1H NMR (500 MHz, CDCl3) δ 8.09, 7.73, 7.65, 7.63, 7.55, 7.36, 7.04, 3.96, 3.95-4.02, 3.88-3.94, 3.61-3.65, 3.52-3.56, 3.32, 1.94-2.04, 0.96. MS (ES+) m/z 452 (M+1).

reactant | 2-methylpropyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID ISOBUTYL ESTER | C(C(C)C)OC(NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C21H24F3N5O3
